US04268301
2-Chloroacetylamino-3-fluorothiophenol (2.0 g) was added to 2 N aqueous sodium hydroxide solution (25 ml), followed by stirring at room temperature (25° C.) for 3 hours. The precipitated crystals were filtered, washed with water and dried to obtain 1.5 g of the objective, 5-fluoro-2,3-dihydro-1,4-benzothiazine-3-one (m.p. 190°-191° C.).

reactant | 2-Chloroacetylamino-3-fluorothiophenol | 2.0 g | ClCC(=O)NC1=C(C=CC=C1F)S | C8H7ClFNOS
reactant | sodium hydroxide | 2 N, 25 ml | [OH-].[Na+]
product | 5-fluoro-2,3-dihydro-1,4-benzothiazine-3-one | FC1=CC=CC2=C1NC(CS2)=O | C8H6FNOS
